US04758579
15. 6-[(4,5-Dimethoxy-2-pyridyl)methylthio]-5H-[1,3]-dioxolo[4,5-f]benzimidazole
A brownish solid is obtained by the procedure described in Example 13 by reaction of 0.85 g of 5H-[1,3]-dioxolo[4,5-f]-benzimidazole-6-thiol with 0.98 g of 2-chloromethyl-4,5-dimethoxypyridinium chloride in 10 ml of ethanol and 10 ml of water, with the addition of 8.5 ml of 1N sodium hydroxide solution, after a reaction time of 20 hours and after concentration, by removing the solvent in vacuo, to a volume of 10 ml. The crude product is dissolved in 30 ml of methylene chloride, the solution is clarified with fuller's earth (for example, Tonsil®), and concentrated. The residue is crystallized by addition of diisopropyl ether and the now pale yellow solid is boiled up in 5 ml of methanol. 0.90 g (60% of theory) of the title compound is obtained as a colorless solid of m.p. 198°-200° C.

reactant | 5H-[1,3]-dioxolo[4,5-f]-benzimidazole-6-thiol | 0.85 g | O1COC2=CC3=C(N=C(N3)S)C=C21 | C8H6N2O2S
reactant | 2-chloromethyl-4,5-dimethoxypyridinium chloride | 0.98 g | [Cl-].ClCC1=[NH+]C=C(C(=C1)OC)OC
reactant | sodium hydroxide | 1N, 8.5 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 6-[(4,5-Dimethoxy-2-pyridyl)methylthio]-5H-[1,3]-dioxolo[4,5-f]benzimidazole | COC1=CC(=NC=C1OC)CSC=1NC2=C(N1)C=C1C(=C2)OCO1 | C16H15N3O4S
